US07160878B2
2-[5-(4-t-Butoxycarbonylhexahydro-1,4-diazepin-1-yl)pyrazin-2-ylcarbonylamino]-4-carboxy-N-(5-chloropyridin-2-yl)-benzamide
To a solution of 2-[5-(4-t-butoxycarbonylhexahydro-1,4-diazepin-1-yl)pyrazin-2-ylcarbonylamino]-4-methoxycarbonyl-N-(5-chloropyridin-2-yl)benzamide (Example P10, 0.610 g, 1 mmol) in THF (6 mL) and water (2 mL) was added lithium hydroxide (0.240 g), and the solution was stirred overnight. THF was evaporated off under vacuum, and the remaining aqueous layer was acidified to pH 2 with 0.1 N HCl before it was extracted with ethyl acetate (3×20 mL), dried over magnesium sulfate and the solvent evaporated. This crude product was used as such for deprotection in the next step.

reactant | 2-[5-(4-t-butoxycarbonylhexahydro-1,4-diazepin-1-yl)pyrazin-2-ylcarbonylamino]-4-methoxycarbonyl-N-(5-chloropyridin-2-yl)benzamide | 1 mmol, 0.610 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C=1N=CC(=NC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C(=O)OC | C29H32ClN7O6
reactant | lithium hydroxide | 0.240 g | [OH-].[Li+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 2-[5-(4-t-Butoxycarbonylhexahydro-1,4-diazepin-1-yl)pyrazin-2-ylcarbonylamino]-4-carboxy-N-(5-chloropyridin-2-yl)-benzamide | C(C)(C)(C)OC(=O)N1CCN(CCC1)C=1N=CC(=NC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C(=O)O | C28H30ClN7O6
